US06710056B2
Methyl 2-acetamido-3-[2-(2-aminoethoxy)-4-cyanophenyl]acrylate hydrochloride:
30 ml of dioxane was added to 7.75 g (19.2 mmol) of methyl 2-acetamido-3-[2-(2-t-butoxycarbonylamino-ethoxy)-4-cyanophenyl]-acrylate, and they were stirred. 80 ml of dioxane containing 4 M of hydrogen chloride was added to the obtained mixture, and they were stirred at room temperature for 1 hour. The solvent was evaporated, and the residue was suspended in ethyl acetate. The title compound was obtained by the filtration.

reactant | methyl 2-acetamido-3-[2-(2-t-butoxycarbonylamino-ethoxy)-4-cyanophenyl]-acrylate | 19.2 mmol, 7.75 g | C(C)(=O)NC(C(=O)OC)=CC1=C(C=C(C=C1)C#N)OCCNC(=O)OC(C)(C)C | C20H25N3O6
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | 4 M, 80 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | Methyl 2-acetamido-3-[2-(2-aminoethoxy)-4-cyanophenyl]acrylate hydrochloride | Cl.C(C)(=O)NC(C(=O)OC)=CC1=C(C=C(C=C1)C#N)OCCN | InChI=1S/C15H17N3O4.ClH/c1-10(19)18-13(15(20)21-2)8-12-4-3-11(9-17)7-14(12)22-6-5-16;/h3-4,7-8H,5-6,16H2,1-2H3,(H,18,19);1H
